US04550107
4-[[2-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
The title compound is prepared analogously to Example 2 from 4-(chloroacetyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 2-(diethylamino)methyl]piperidine to give colorless crystals, mp. 147°-149° C. (cyclohexane/ethyl acetate 9:1 v/v).

reactant | 4-(chloroacetyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClCC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C14H11ClN2O2S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 4-[[2-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(C)N(CC)CC1N(CCCC1)CC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C24H32N4O2S
